US06713455B2
1-(2-Pyrimidinyl)-1H-imidazole-4-carboxaldehyde
Sodium hydride (60% in oil, 1.44 g, 36.00 mmol) was added to a 0° C. solution of 1H-imidazole-4-carboxaldehyde (4.40 g, 36.03 mmol) in DMF (16 mL). After stirring for 20 min at 0° C., the mixture was allowed to warm to RT and a solution of 2-chloropyrimidine (4.12 g, 35.97 mmol) in DMF (8 mL) was added. The resulting mixture was heated to 100° C. for 18 h. The solvent was evaporated, the residue was dissolved in ethyl acetate, washed with water and brine, dried (MgSO4), and concentrated to provide 6.20 g (86%) of the title compound. MS 175 (M+H)+.

reactant | Sodium hydride | 36.00 mmol, 1.44 g | [H-].[Na+]
reactant | 1H-imidazole-4-carboxaldehyde | 36.03 mmol, 4.40 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | 2-chloropyrimidine | 35.97 mmol, 4.12 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(2-Pyrimidinyl)-1H-imidazole-4-carboxaldehyde | 6.20 g, 86% | N1=C(N=CC=C1)N1C=NC(=C1)C=O | C8H6N4O
